US04144238
70 gm. of nicotinic acid-N-oxide was suspended in 300 ml of POCl3. Then 50 gm. of triethyl amine was added drop by drop at room temperature, whereby the nicotinic acid-N-oxide dissolved at about 50° C. (the temperature rise occured due to an exothermic reaction). Then the solution was heated in a water bath at 100° C. for another 4 hours. The main quantity of excess phosphorus oxychloride was distilled off under vacuum. The residue was allowed to flow into water at a temperature below 40° C. After addition of diluted caustic soda solution, the 2-chloronicotnic acid precipitated at a pH value of 2.0 to 2.5. The product had a melting point of 173° to 175° C. (Kofler). The product (2-chloronicotinic acid) yield amounted to 65 to 70 percent of theory.

reactant | nicotinic acid-N-oxide | C(C1=C[N+](=CC=C1)[O-])(=O)O | C6H5NO3
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
reactant | POCl3 | 300 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloronicotinic acid | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
